* Z:\home\tejaswinianagani\ee18btech11044\ee18btech11044.asc
XU1 N002 N005 N003 N004 Vout LM741/NS
C1 N002 0 1m
R1 N001 0 250
C2 Vout N001 1m
R2 N001 N002 250
V1 0 N004 15
V2 N003 0 15
R3 N005 0 1k
R4 Vout N005 2030
.tran 0.01 600
.include LM741.MOD
.control
run
plot(Vout)
wrdata ee18btech11047.dat V(Vout)
.endc
.end
